US08022075B2
6-Iodo-2-[4-(1H-4-pyrazolyl)phenyl]imidazo[1,2-a]pyridine
Subsequently, 2-amino-5-iodopyridine (478 mg) and tert-butyl 4-[4-(2-bromoacetyl)phenyl]-1H-1-pyrazolecarboxylate mg) were dissolved in ethanol (20 mL), and sodium hydrogencarbonate (183 mg) was added to the solution, followed by refluxing for 16 hours. The precipitated matter was recovered through filtration and dried, to thereby yield the title compound (535 mg).

reactant | 2-amino-5-iodopyridine | 478 mg | NC1=NC=C(C=C1)I | C5H5IN2
reactant | tert-butyl 4-[4-(2-bromoacetyl)phenyl]-1H-1-pyrazolecarboxylate | BrCC(=O)C1=CC=C(C=C1)C=1C=NN(C1)C(=O)OC(C)(C)C | C16H17BrN2O3
reactant | sodium hydrogencarbonate | 183 mg | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-Iodo-2-[4-(1H-4-pyrazolyl)phenyl]imidazo[1,2-a]pyridine | 535 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C=2C=NNC2 | C16H11IN4
